US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-7-fluoro-5-(pyrrolidin-1-yl)quinazolin-4(3H)-one
A solution of 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-difluoro-3H-quinazolin-4-one (1.38 g, crude) and pyrrolidine (10 mL) was stirred at room temperature for 16 hours. Excess pyrrolidine was evaporated, the residue was purified by column chromatography (silica gel 230-400 mesh; 30-50% ethyl acetate in hexanes as eluent). The compound was further purified by preparative HPLC to give the title compound as a white solid. Yield: 260 mg (13% for two steps). MP 206.6-206.8° C. 1H NMR (400 MHz, DMSO-d6): δ 11.85 (s, 1H), 6.63 (d, J=8 Hz, 1H), 6.51 (d, J=12 Hz, 1H), 3.90 (t, J=4 Hz, 2H), 2.83 (t, J=4 Hz, 2H), 2.50 (s, 6H), 2.30 (s, 4H), 1.89 (s, 4H), 1.70 (s, 4H).

reactant | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-difluoro-3H-quinazolin-4-one | 1.38 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)F)F)C | C18H15BrF2N2O2
reactant | pyrrolidine | 10 mL | N1CCCC1 | C4H9N
product | 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-7-fluoro-5-(pyrrolidin-1-yl)quinazolin-4(3H)-one | CC=1C=C(C=C(C1OCCN1CCCC1)C)C1=NC2=CC(=CC(=C2C(N1)=O)N1CCCC1)F | C26H31FN4O2
